US04897105
S-(2-Methoxycarbonylbenzyl)isothiourea·hydrochloride
A solution of 196 g of methyl 2-chloromethylbenzoate and 83.7 g of thiourea in 500 ml of ethanol is refluxed for 4 hours. The reaction solution is concentrated under reduced pressure and to the resulting residue is added 300 ml of isopropylalcohol. The precipitated crystals are collected by filtration and dried to give 112.8 g of the title compound.

reactant | methyl 2-chloromethylbenzoate | 196 g | ClCC1=C(C(=O)OC)C=CC=C1 | C9H9ClO2
reactant | thiourea | 83.7 g | NC(=S)N | CH4N2S
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | S-(2-Methoxycarbonylbenzyl)isothiourea·hydrochloride | 112.8 g | COC(=O)C1=C(CSC(N)=N)C=CC=C1.Cl | InChI=1S/C10H12N2O2S.ClH/c1-14-9(13)8-5-3-2-4-7(8)6-15-10(11)12;/h2-5H,6H2,1H3,(H3,11,12);1H
